US05492905
Example 36. 8-Chloro-3-diethylamino-2,5-dihydro-2,5-dioxo-1H-benz[b]azepine.
8-Chloro-4-iodo-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine (0.4 g) was treated with diethylamine (20 mL). The mixture was sealed in a pressure vessel and heated to 60° C. for 17 hours. The reaction mixture was concentrated to a brown solid which was recrystallized from hot ethyl acetate. The solid was filtered, washed and air dried to give the title compound as a yellow solid; NMR: 5.70 (s,1); MS: m/z=279(M+1).

reactant | 8-Chloro-4-iodo-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 0.4 g | ClC=1C=CC2=C(NC(C(=C(C2=O)I)OC)=O)C1 | C11H7ClINO3
solvent | diethylamine | 20 mL | C(C)NCC | C4H11N
product | 8-Chloro-3-diethylamino-2,5-dihydro-2,5-dioxo-1H-benz[b]azepine | ClC=1C=CC2=C(NC(C(=CC2=O)N(CC)CC)=O)C1 | C14H15ClN2O2
